US07829560B2
3-Fluoro-N-{4-[(2-{[1-(hydroxymethyl)cyclopentyl]amino}pyrimidin-4-yl)oxy]-1-naphthyl}-5-piperidin-1-ylbenzamide (Compound B399).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 1-amino-cyclopentylmethanol according to conditions described in general procedure C. 1H NMR (400 MHz, DMSO-d6) δ 1.14 (s, 4 H), 1.58-1.61 (m, 10 H), 3.26-3.31 (m, 6 H), 6.27 (d, J=5.5 Hz, 1 H), 6.53 (s, 1 H), 6.95 (d, J=12.4 Hz, 1 H), 7.15 (d, J=8.8 Hz, 1 H), 7.35 (d, J=7.7 Hz, 1 H), 7.44 (s, 1 H), 7.52-7.59 (m, 3 H), 7.78 (s, 1 H), 7.95-7.97 (m, 1 H), 8.16 (d, J=5.5 Hz, 1 H), 10.41 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 1-amino-cyclopentylmethanol | NC1(CCCC1)CO | C6H13NO
product | 3-Fluoro-N-{4-[(2-{[1-(hydroxymethyl)cyclopentyl]amino}pyrimidin-4-yl)oxy]-1-naphthyl}-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NC2(CCCC2)CO)C=C(C1)N1CCCCC1 | C32H34FN5O3
